US06900215B2
3-Fluoro-3-methylbutan-2-one was converted to 1,1-diethoxy-4-fluoro-4-methylpentan-3-one as described in Example 3, and condensed with 2-aminoimidazole hemisulfate as in Example 2, to give 7-(1-fluoro-1-methylethyl)imidazo[1,2-α]pyrimidine as an orange oil which crystallised on standing: δH (400 MHz, CDCl3) 1.77 (6H, d, J 22), 7.21 (1H, dd, J 7 and 2), 7.54 (1H, d, J 1), 7.79 (1H, d, J 1), 8.45 (1H, d, J 7).

reactant | 3-Fluoro-3-methylbutan-2-one | FC(C(C)=O)(C)C | C5H9FO
reactant | 1,1-diethoxy-4-fluoro-4-methylpentan-3-one | C(C)OC(CC(C(C)(C)F)=O)OCC | C10H19FO3
reactant | 2-aminoimidazole hemisulfate | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
product | 7-(1-fluoro-1-methylethyl)imidazo[1,2-α]pyrimidine | FC(C)(C)C1=NC=2N(C=C1)C=CN2 | C9H10FN3
